US05726172
To a stirred solution of methyl 5-fluoro-2-methoxy-4-[1-(S)-(4-pyridyl)ethoxy]benzoate (290 mg, 0.95 mmol) in methanol (5 mL) was added aqueous NaOH (396 μL, 3.6M). The reaction was stirred at ambient temperature overnight and then heated to 45° C. in an oil bath for another 24 h. The reaction pH was lowered to pH 3 using 1N HCl and the reaction mixture stripped down under reduced pressure. The white foam was lyophilized from H2O/CH3CN to afford the 5-fluoro-2-methoxy-4-[1-(S)-(4-pyridyl)ethoxy]benzoic acid as a white powder.

reactant | methyl 5-fluoro-2-methoxy-4-[1-(S)-(4-pyridyl)ethoxy]benzoate | 0.95 mmol, 290 mg | FC=1C(=CC(=C(C(=O)OC)C1)OC)O[C@@H](C)C1=CC=NC=C1 | C16H16FNO4
reactant | NaOH | 396 μL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | H2O CH3CN | O.CC#N
solvent | methanol | 5 mL | CO | CH4O
product | 5-fluoro-2-methoxy-4-[1-(S)-(4-pyridyl)ethoxy]benzoic acid | FC=1C(=CC(=C(C(=O)O)C1)OC)O[C@@H](C)C1=CC=NC=C1 | C15H14FNO4
